US05214037
To a solution of 1,2,4-triazole-3-thiol (2.23 g : 22.1 mMol.) in dimethylformamide (30 ml) is added sodium hydride (60% in oil : 840 mg : 21 mMol.), and the mixture is stirred at room temperature for 10 minutes. To this solution at -50° to -60° C. is added a solution of chloromethyl thiolacetate (2.50 g : 20.1 mMol.) in dimethylformamide (5 ml), and the mixture is stirred at the same temperature for 20 minutes, mixed with another trityl chloride (6.70 g : 24 mMol.) and pyridine (1.94 ml : 24.0 mMol.), stirred under ice cooling for 28 hours, diluted with water, and extracted with ethyl acetate. The extract is washed with brine, dried over sodium sulfate, and concentrated under reduced pressure. The residue is purified by silica gel chromatography (toluene : ethyl acetate=20: 1) and crystallized from ether to give 3- acetylthiomethylthio-1-trityl-1,2,4-triazole (3.37 g). Yield: 39%. Colorless crystals, mp. 124° to 125° C.

reactant | 1,2,4-triazole-3-thiol | 22.1 mMol, 2.23 g | N1N=C(N=C1)S | C2H3N3S
reactant | sodium hydride | 21 mMol, 840 mg | [H-].[Na+]
reactant | chloromethyl thiolacetate | 20.1 mMol, 2.50 g | S1C(=CC=C1)CC(=O)OCCl | C7H7ClO2S
reactant | trityl chloride | 24 mMol, 6.70 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | pyridine | 24.0 mMol, 1.94 ml | N1=CC=CC=C1 | C5H5N
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3- acetylthiomethylthio-1-trityl-1,2,4-triazole | 3.37 g, Yield: 39% | C(C)(=O)SCSC1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H21N3OS2
